US05521193
N-isopropyl-4-methoxy-2-nitroaniline
4-methoxy-2-nitroaniline (16.8 g; 0.1 mole), 2,2-dimethoxypropane (24.6 ml; 0.2 mole) and trifluoroacetic acid [TFA] (23.1 ml; 0.005 moles) were dissolved in toluene (500 ml) and stirred for 1 hr. BH3 * pyridine (10.0 ml; 0.1 moles) was added in 1.0 ml increments. The reaction was exothermic, and the reaction progress was monitored by tlc 40% EtOAc/Hexane. .Additional TFA, BH3 * pyridine and 2,2-dimethoxypropane were added until the tlc indicated that the 4-fluoro-2-nitroaniline was consumed. The reaction mixture was placed on a bed of silica and eluted with 10% methyl-t-butylether/hexane. The product was the first major component to elute, which produced 13.2 g (62%) of a yellow solid.

reactant | 4-methoxy-2-nitroaniline | 0.1 mole, 16.8 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | 2,2-dimethoxypropane | 0.2 mole, 24.6 ml | COC(C)(C)OC | C5H12O2
reactant | TFA | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-fluoro-2-nitroaniline | FC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | trifluoroacetic acid | 0.005 moles, 23.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | pyridine | 0.1 moles, 10.0 ml | N1=CC=CC=C1 | C5H5N
product | N-isopropyl-4-methoxy-2-nitroaniline | 13.2 g, 62% | C(C)(C)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C10H14N2O3
